US06376490B1
Methoxyacetylchloride (2.16 mL, 2.57 g, 23.66 mmol) was added to a solution of 5-amino-6-chloro-2,3-dimethoxy-7-methylquinoxaline (Preparation 113, 5 g, 19.72 mmol) and pyridine (1.91 mL, 1.89 g, 23.66 mmol) in dichloromethane (80 mL) at 0° C. After a further 1 hour at this temperature, the mixture was washed with 2M aqueous hydrochloric acid solution, brine, dried (MgSO4) and concentrated under reduced pressure. The residue was triturated with diisopropyl ether and filtered to give 6-chloro-2,3-dimethoxy-5-methoxyacetamido-7-methylquinoxaline (6.06 g, 98%) as an off white solid, mp 170-171° C.

reactant | Methoxyacetylchloride | 23.66 mmol, 2.16 mL, 2.57 g | COCC(=O)Cl | C3H5ClO2
reactant | 5-amino-6-chloro-2,3-dimethoxy-7-methylquinoxaline | 19.72 mmol, 5 g | NC1=C2N=C(C(=NC2=CC(=C1Cl)C)OC)OC | C11H12ClN3O2
reactant | pyridine | 23.66 mmol, 1.91 mL, 1.89 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 6-chloro-2,3-dimethoxy-5-methoxyacetamido-7-methylquinoxaline | 6.06 g, 98% | ClC=1C(=C2N=C(C(=NC2=CC1C)OC)OC)NC(COC)=O | C14H16ClN3O4
